Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Lipitor / Procardia / Iodine Containing Agents Classifier
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
Stress Echo

 
History of Present Illness:
Mr. ___ is a ___ year old male with a history of CAD s/p cath w/ 
3vD, RCA stent ___, hypercholesterolemia, GERD, gouty 
arthritis and hypertension who saw PCP this morning with chest 
pain x 2 days.  
He reports that the pain started over the weekend, and it felt 
like "a heavy punch" in the ___ his chest. It was similar 
in location to his prior pain that prompted the catherization, 
but otherwise was different in quality.  
.  
He describes it as constant, substernal, worsening with deep 
inspiration and cough. Denies radiation of the pain, 
diaphoresis, burning sensation, nausea, vomiting or diarrhea He 
denies fatigue, fevers, chills. Also denies SOB, recent URTI, 
wheezing or edema, has not had any recent travel or surgery. He 
admits to episodes of positional presyncope but denies weakness, 
confusion, slurred speech or visual disturbance. He has noted a 
slight cough recently. Of note, the patient has been seen 
multiple times this year in his PCPs office for chest pain. On 
each occasion, it was noted that the pain was not typical for 
cardiac pain, the EKG was unchanged and the patient was asked to 
follow up with Dr. ___ cardiologist. However he not yet 
scheduled an appointment with his cardiologist.  

 
Past Medical History:
Dyslipidemia
Hypertension  
CAD-Percutaneous coronary intervention, in ___ anatomy as 
follows: Bare metal RCA stent  
GERD  
gouty arthritis  

 
Social History:
___
Family History:
.  
There is no family history of premature coronary artery disease 
or sudden death. 
 
Physical Exam:
VS - T 97.4, BP 144/94, HR 65, RR 18, 97% on RA.  
Gen: Middle aged male in NAD. Oriented x3. Mood, affect 
appropriate. Able to converse well in ___.  
HEENT: Sclera anicteric. PERRL, EOMI. MMM, clear oropharynx.  
Neck: Supple with JVP of 7 cm.  
CV: RR, normal S1, S2. No murmur. No thrills, lifts. No S3 or 
S4.  
Chest: Resp were unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
Abd: Soft, NT, ND. No HSM or tenderness. Abd aorta not enlarged 
by palpation. No abdominial bruits.  
Ext: No c/c/e. No femoral bruits.  
Skin: No stasis dermatitis, ulcers, scars, or xanthomas. Several 
4-5 cm red circles over back and arms (patient reports these 
were intentionally made), non-blanching, flat.  
Neuro: Alert, oriented, no deficits.  
.  
Pulses:  
Right: Carotid 2+ DP 2+ ___ 2+  
Left: Carotid 2+ 2+ DP 2+ ___ 2+  

 
Pertinent Results:
___ 05:55AM BLOOD WBC-6.9 RBC-4.71 Hgb-15.4 Hct-42.5 MCV-90 
MCH-32.8* MCHC-36.3* RDW-13.2 Plt ___
___ 11:30AM BLOOD WBC-5.8 RBC-4.89 Hgb-16.0 Hct-44.5 MCV-91 
MCH-32.7* MCHC-36.0* RDW-13.4 Plt ___
___ 11:30AM BLOOD Neuts-62.2 ___ Monos-6.4 Eos-2.1 
Baso-0.9
___ 11:30AM BLOOD D-Dimer-209
___ 05:55AM BLOOD Glucose-104 UreaN-22* Creat-1.1 Na-143 
K-3.7 Cl-101 HCO3-33* AnGap-13
___ 11:30AM BLOOD Glucose-97 UreaN-19 Creat-1.0 Na-142 
K-5.4* Cl-98 HCO3-34* AnGap-15
___ 01:30AM BLOOD CK(CPK)-69
___ 07:36PM BLOOD CK(CPK)-79
___ 06:05PM BLOOD CK(CPK)-80
___ 11:30AM BLOOD CK(CPK)-119
___ 01:30AM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 07:36PM BLOOD cTropnT-<0.01
___ 06:05PM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 11:30AM BLOOD CK-MB-2 cTropnT-<0.01
___ 05:55AM BLOOD Calcium-9.5 Phos-3.6 Mg-2.4
___: Stress Echo
The patient exercised for 10 minutes and 45 seconds according to 
a Modified ___ treadmill protocol ___ METS) reaching a peak 
heart rate of 153 bpm and a peak blood pressure of 174/82 mmHg. 
The test was stopped because of fatigue. This level of exercise 
represents an average exercise tolerance for age. In response to 
stress, the ECG showed no ST-T wave changes (see exercise report 
for details). There were normal blood pressure and heart rate 
responses to stress. 
Resting images were acquired at a heart rate of 84 bpm and a 
blood pressure of 130/86 mmHg. These demonstrated normal 
regional and global left ventricular systolic function. Right 
ventricular free wall motion is normal. Doppler demonstrated no 
aortic stenosis, aortic regurgitation or significant mitral 
regurgitation or resting LVOT gradient. 
Echo images were acquired within 90 seconds after peak stress at 
heart rates of 140-110 bpm. These demonstrated appropriate 
augmentation of all left ventricular segments. There was 
augmentation of right ventricular free wall motion. 

IMPRESSION: Average functional exercise capacity. No ECG or 2D 
echocardiographic evidence of inducible ischemia to achieved 
workload. Normal hemodynamic response to exercise. Mild right 
ventricular cavity dilation.  
 
Brief Hospital Course:
In the ED, initial vitals were T: 98.6 HR: 60 BP: RR: O2Sat: 
100% 2L. Patient received SL nitroglycerin x 1 and chest pain 
resolved. DDimer was checked and was negative, and the patient 
was admitted for further evaluation and management of his chest 
pain.  
.  
#. Chest pain: The patient had no EKG changes, troponins were 
negative x4 and stress echo showed no ST changes with exercize 
and no wall motion abnormalities--effectively ruling out cardiac 
etiologies of his chest pain.  DDimer was negative which ruled 
out PE. The likely etiology is musculoskeletal, GERD, anxiety 
over recent job loss, or arthritic pain. He was monitored on 
telemetry with no events. continued on ASA, Valsartan, 
pravachol. Patient is not on a beta blocker as an outpatient, so 
we started metoprolol XL 12.5 po daily. He was also continued on 
PPI for GERD.  
.  
#. Pump: Cardiac Cath ___ showed Ef 58% with normal LV 
function and no wall motion abnormalities. No evidence of 
failure on exam or by history.  
.  
#. Hypertension: Patient was well controlled on Valsartan/HCTZ 
and metoprolol.  
.  
#  Gout: Patient continued on Allopurinol without symptoms.  
.
 
Medications on Admission:
ALLOPURINOL - 300 mg Tablet - 1 Tablet(s) by mouth once a day  
OMEPRAZOLE - 20 mg Capsule, Delayed Release(E.C.) - 1 Capsule,  
Delayed Release(E.C.)(s) by mouth twice a day  
PRAVASTATIN [PRAVACHOL] - 40 mg Tablet - 1 Tablet(s) by mouth  
once a day  
VALSARTAN-HYDROCHLOROTHIAZIDE [DIOVAN HCT] - 160-25 mg Tablet - 
1  
Tablet(s) by mouth twice a day  
ASPIRIN [ECOTRIN LOW STRENGTH]- 81 mg Tablet, Delayed Release 
(E.C.) -  
MULTIVITAMIN - 1 Capsule(s) by mouth qam  

 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Valsartan 160 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. Allopurinol ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed.  
7. Pravastatin 40 mg Tablet Sig: One (1) Tablet PO once a day.  
8. Metoprolol Succinate 25 mg Tablet Sustained Release 24 hr 
Sig: 0.5 Tablet Sustained Release 24 hr PO once a day.
Disp:*15 Tablet Sustained Release 24 hr(s)* Refills:*2*
9. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Stable Coronary Artery Disease
.
Secondary: 
Hypercholesterolemia
Gastroesophageal reflux disease
Hypertension

 
Discharge Condition:
Stable, without chest pain

 
Discharge Instructions:
You came to the hospital with chest pain. Your blood was taken 
and did not show any evidence of a heart attack. Your EKG was 
not changed from prior which also suggests you did not have a 
heart attack.  Your symptoms were not typical for heart-related 
problems.  We did a stress test and ultrasound of your heart, 
which were normal.  It showed you were able to exercise to a 
level average for your age, and that you had normal movement of 
your heart during exercise.  
.
We made the following changes to your medications:
-We added Metoprolol SR 12.5mg daily to your medications to help 
with your blood pressure and help protect your heart
.
Please follow up with your cardiologist and primary care doctor 
as below.
.
If you develop any symptoms of severe chest pain, shortness of 
breath, or palpitations, please contact your physician 
___.
 
Followup Instructions:
___